US07060827B2
In like manner to N2,N4-bis(3-hydroxyphenyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine, 2,4-dichloro-5-ethoxycarbonylpyrimidine and 6-aminoindazole were reacted to yield N2,N4-bis(6-indazolyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 8.76 (s, 1H), 7.73(d, 2H J=8.8), 7.54 (m, 4H), 7.36 (d, 2H, J=9.5 Hz), 4.3 (q, 2H, J=7.0 Hz), 1.34 (3H, J=7 Hz); LCMS: ret. time 27.59 min.; purity: 95%; MS (m/e): 415 (MH+).

reactant | 2,4-dichloro-5-ethoxycarbonylpyrimidine | ClC1=NC=C(C(=N1)Cl)C(=O)OCC | C7H6Cl2N2O2
reactant | 6-aminoindazole | NC1=CC=C2C=NNC2=C1 | C7H7N3
product | N2,N4-bis(6-indazolyl)-5-ethoxycarbonyl-2,4-pyrimidinediamine | N1N=CC2=CC=C(C=C12)NC1=NC=C(C(=N1)NC1=CC=C2C=NNC2=C1)C(=O)OCC | C21H18N8O2
